US08536179B2
Added 1-(1-methylethyl)-7-(methyloxy)-1H-indole-4-carboxylic acid (160 mg, 0.686 mmol), 3-(aminomethyl)-6-methyl-4-propyl-2(1H)-pyridinone (186 mg, 0.857 mmol), 1-hydroxy-7-azabenzotriazole (187 mg, 1.372 mmol), EDC (263 mg, 1.372 mmol) and N-methylmorpholine (0.302 mL, 2.74 mmol) to DMSO (10 mL) and stirred mixture at RT for 16 h. Added 25 ml of water and stirred for 10 minutes. Filtered off solids and dried in vacuo. The solids were purified by column chromatography (Biotage; 0% to 15% gradient MeOH:DCM; 10 g-HP-silica gel column) to give 165 mg of 1-(1-methylethyl)-N-[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]-7-(methyloxy)-1H-indole-4-carboxamide.

reactant | 1-(1-methylethyl)-7-(methyloxy)-1H-indole-4-carboxylic acid | 0.686 mmol, 160 mg | CC(C)N1C=CC=2C(=CC=C(C12)OC)C(=O)O | C13H15NO3
reactant | 3-(aminomethyl)-6-methyl-4-propyl-2(1H)-pyridinone | 0.857 mmol, 186 mg | NCC=1C(NC(=CC1CCC)C)=O | C10H16N2O
reactant | 1-hydroxy-7-azabenzotriazole | 1.372 mmol, 187 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 1.372 mmol, 263 mg
reactant | N-methylmorpholine | 2.74 mmol, 0.302 mL | CN1CCOCC1 | C5H11NO
solvent | water | 25 ml | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 1-(1-methylethyl)-N-[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]-7-(methyloxy)-1H-indole-4-carboxamide | 165 mg | CC(C)N1C=CC=2C(=CC=C(C12)OC)C(=O)NCC=1C(NC(=CC1CCC)C)=O | C23H29N3O3
